US04956462
Synthesis of diphenylmethyl 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate
To a suspension comprising 30 g of 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid, 170 ml of methanol and 510 ml of methylene chloride was added dropwise while stirring diphenyldiazomethane, which had been synthesized from 39.25 g of benzophenonehydrazone, 43.22 g of mercuric oxide (yellow) and 350 ml of n-hexane, in 50 ml of methylene chloride, and the mixture was stirred at room temperature overnight. After the reaction mixture was condensed and ether was added thereto to effect crystallization. The crystals were collected by filtration and dried, and the resulting powder was purified through silica gel column chromatography to obtain 31.1 g of the title compound.

reactant | 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid | 30 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)COC)C)C(=O)O)C1=O | C16H18N6O4S2
reactant | methanol | 170 ml | CO | CH4O
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | benzophenonehydrazone | 39.25 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 510 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | n-hexane | 350 ml | CCCCCC | C6H14
product | diphenylmethyl 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | 31.1 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)COC)C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C29H28N6O4S2
